US06919347B2
To a stirred solution of 2-choro-4-cyanobenzyl bromide (6.9 g, 30.0 mmol) in DMF (150 ml), was added sodium azide (2.0 g, 30 mmol) The reaction was stirred overnight at room temperature, and then filtered. The DMF was removed from filtrate in vacuo. The residue was dissolved in EtOAc (300 ml), washed with water (200 ml×3), brine (200 ml×1), dried over sodium sulfate. Removed solvent in vacuo to give 5.8 g of raw 2-choro-4-cyanobenzyl azide.

reactant | 2-choro-4-cyanobenzyl bromide | 30.0 mmol, 6.9 g | ClC1=C(CBr)C=CC(=C1)C#N | C8H5BrClN
reactant | sodium azide | 30 mmol, 2.0 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-choro-4-cyanobenzyl azide | 5.8 g | ClC1=C(CN=[N+]=[N-])C=CC(=C1)C#N | C8H5ClN4
